US08334295B2
3-(2,6-Bis-benzyloxy-5-isopropyl-pyrimidin-4-yloxy)-5-methyl-benzonitrile:
At 0° C., NaH (60%, 118 mg, 2.88 mmol, 2.2 eq.) was added to benzyl alcohol (298 μL, 2.88 mmol) in 5 mL of THF solution. The reaction mixture was stirred at 0° C. for 5 minutes. 3-(2,6-Dichloro-5-isopropyl-pyrimidin-4-yloxy)-5-methyl-benzonitrile (422 mg, 1.31 mmol) was added. The reaction mixture was stirred at 0° C. for 15 minutes, then warmed to room temperature for 90 minutes. Ethyl acetate was added to the reaction mixture, which was then washed with brine. The organic layer was concentrated and purified (silica gel, 0-50% EtOAc/hexane) to give a white solid (372 mg, 65% pure by HPLC, 40%). LC-MS shows 466.1 (M+1).

reactant | NaH | 2.88 mmol, 118 mg, 2.2 eq. | [H-].[Na+]
reactant | benzyl alcohol | 2.88 mmol, 298 μL | C(C1=CC=CC=C1)O | C7H8O
reactant | 3-(2,6-Dichloro-5-isopropyl-pyrimidin-4-yloxy)-5-methyl-benzonitrile | 1.31 mmol, 422 mg | ClC1=NC(=C(C(=N1)OC=1C=C(C#N)C=C(C1)C)C(C)C)Cl | C15H13Cl2N3O
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-(2,6-Bis-benzyloxy-5-isopropyl-pyrimidin-4-yloxy)-5-methyl-benzonitrile | C(C1=CC=CC=C1)OC1=NC(=C(C(=N1)OC=1C=C(C#N)C=C(C1)C)C(C)C)OCC1=CC=CC=C1 | C29H27N3O3
